US05298627
To a stirred -10° C. solution of N,N-bis(phenylmethyl)acetamide (prepared from N,N-bis(phenylmethyl)amine and acetyl chloride by refluxing for 2 hours in toluene) (120 g, 0.5 mol) in tetrahydrofuran (0.5 L) is slowly added a solution of lithium diisopropylamide in tetrahydrofuran-heptane (0.25 L of 2M) while maintaining the temperature between -30° C. to -45° C., and the mixture is stirred at -20° C. to -30° C. for 30 minutes. (R)-4-cyano-3-hydroxybutyric acid, ethyl ester (Brower, supra) (20 g, 0.125 mol) as a solution in 200 mL of tetrahydrofuran is then added to the previous mixture. The reaction mixture is stirred for 30 minutes at -35° C. to -20° C., and transferred to a 2.2N aqueous hydrochloric acid solution (0.5 L). The aqueous layer is extracted with 300 mL of ethyl acetate, the aqueous layer is separated and reextracted with 100 mL of ethyl acetate, the extracts are combined and concentrated in vacuo to afford crude (R)-6-cyano-5-hydroxy-3-oxo-N,N-bis(phenylmethyl)hexanamide as an oil. This oil, approximately 0.1 mol, is dissolved in tetrahydrofuran (200 mL) and methanol (100 mL) under a nitrogen atmosphere. The solution is cooled to -20° C., and a 50% solution of methoxydiethylborane in tetrahydrofuran (50 mL) is added. The reaction is cooled to -78° C., and sodium borohydride (12 g, 0.32 mol) is added over 30 minutes. The reaction is maintained at -78° C. for 5 hours and allowed to warm to room temperature and stand for 10 hours under a nitrogen atmosphere. The reaction is quenched by the addition of acetic acid (20 mL) and concentrated by vacuum distillation to an oil. The residue is dissolved with methanol (300 mL), concentrated by vacuum distillation, redissolved with methanol (300 mL), and reconcentrated by vacuum distillation to give a yellow oil. The oil is taken up in ethyl acetate (300 mL) and washed with deionized water (300 mL). The ethyl acetate solution is concentrated by vacuum distillation to give crude [R-(R*,R*)]-6-cyano-3,5-dihydroxy-N,N-bis(phenylmethyl)hexanamide as an oil which is used without further purification;

reactant | N,N-bis(phenylmethyl)acetamide | 0.5 mol, 120 g | C1(=CC=CC=C1)CN(C(C)=O)CC1=CC=CC=C1 | C16H17NO
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (R)-4-cyano-3-hydroxybutyric acid, ethyl ester | 0.125 mol, 20 g | C(#N)C[C@H](CC(=O)OCC)O | C7H11NO3
reactant | hydrochloric acid | 2.2N, 0.5 L | Cl | ClH
solvent | tetrahydrofuran | 0.5 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran heptane | 2M, 0.25 L | O1CCCC1.CCCCCCC
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (R)-6-cyano-5-hydroxy-3-oxo-N,N-bis(phenylmethyl)hexanamide | C(#N)C[C@H](CC(CC(=O)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)O | C21H22N2O3
